US08106064B2
3-{5-Dimethylamino-3-[2-fluoro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl}-5-methyl-benzonitrile (167):
A solution 3-(5-dimethylamino-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl)-5-methyl-benzonitrile (0.0087 g, 0.0292 mmol), methanesulfonic acid 2-fluoro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl ester (0.0095 g, 0.0292 mmol), lithium iodide (0.002 g, 0.0146 mmol) and potassium carbonate (0.004 g, 0.0292 mmol) in DMF (3.0 mL) was stirred at 0° C. for 7 h. Reaction mixture was diluted with acetonitrile and purified by reverse phase HPLC (Phenomenex Synergi® column, 5 to 100% acetonitrile/H2O) to give an yellow powder after lyophilization (0.0063 g, 40%). 1H NMR (300 MHz, CDCl3): δ 8.55 (br s, 1H), 7.62 (s, 1H), 7.52 (s, 1H), 7.49 (s, 1H), 7.22 (s, 1H), 7.19 (d, J=8.4 Hz, 2H), 6.85 (d, J=8.4 Hz, 2H), 5.77 (d, J=8.4 Hz, 1H), 4.22 (s, 2H), 3.77 (s, 3H), 2.39 (s, 6H). Mass spectrum: 543.1 (M+H)+.

reactant | 3-(5-dimethylamino-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl)-5-methyl-benzonitrile | 0.0292 mmol, 0.0087 g | CN(C1=C(NC(NC1=O)=O)C(=O)C=1C=C(C#N)C=C(C1)C)C | C15H14N4O3
reactant | methanesulfonic acid 2-fluoro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl ester | 0.0292 mmol, 0.0095 g | FC1=NC(=CC(=C1)COS(=O)(=O)C)NCC1=CC=C(C=C1)OC | C15H17FN2O4S
reactant | lithium iodide | 0.0146 mmol, 0.002 g | [I-].[Li+]
reactant | potassium carbonate | 0.0292 mmol, 0.004 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-{5-Dimethylamino-3-[2-fluoro-6-(4-methoxy-benzylamino)-pyridin-4-ylmethyl]-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl}-5-methyl-benzonitrile | CN(C1=C(N(C(NC1=O)=O)CC1=CC(=NC(=C1)NCC1=CC=C(C=C1)OC)F)C(=O)C=1C=C(C#N)C=C(C1)C)C | C29H27FN6O4
